US07420001B2
To 5-formyl-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester (430 mg, 1.56 mmol) was added 8 mL of THF, followed by sodium cyanoborohydride (117 mg, 1.87 mmol) in one portion. The solution was stirred at room temperature for 1 h and then placed in a 65° C. oil bath overnight. The solvent was removed under vacuum and water was added. The mixture was extracted with ethyl acetate. Removal of the solvent gave the crude product, which was purified by column chromatography to give 200 mg of 4-hydroxy-5-hydroxymethyl-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester was obtained as a yellow semi-solid.

reactant | 5-formyl-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 1.56 mmol, 430 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)C=O)O | C15H16O5
reactant | sodium cyanoborohydride | 1.87 mmol, 117 mg | C(#N)[BH3-].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-hydroxy-5-hydroxymethyl-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 200 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)CO)O | C15H18O5
